US07273879B2
Into 3 g of N,N-dimethylformamide were dissolved 251 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 188 mg of 6-chloro-2-pyridylmethyl alcohol, 72 mg of sodium hydride (60% in oil) was added thereto at room temperature, and the reaction mixture was stirred for 30 minutes. The reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 44 mg of 5-(6-chloro-2-pyridylmethyloxy)-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (35)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 251 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 6-chloro-2-pyridylmethyl alcohol | 188 mg | ClC1=CC=CC(=N1)CO | C6H6ClNO
reactant | sodium hydride | 72 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 g | CN(C=O)C | C3H7NO
product | 5-(6-chloro-2-pyridylmethyloxy)-3-methylthio-1,2,4-thiadiazole | 44 mg | ClC1=CC=CC(=N1)COC1=NC(=NS1)SC | C9H8ClN3OS2
